US06075021
6-Fluoro-9-methyl-2-phenyl-4-(pyrrolidin-1-ylcarbonyl)-2,9-dihydro-1H-pyrido[3,4-b]indol-1-one
A solution of 3.2 g (10 mmol) of 6-fluoro-9-methyl-1-oxo-2-phenyl-2,9-dihydro-1H-pyrido[3,4-b]indole-4-carboxylic acid and of 3.2 g (20 mmol) of N,N'-carbonyldiimidazole in 65 ml of N,N-dimethylformamide is stirred for 4 h at 60° C. 2.5 ml (30 zmol) of pyrrolidine are added at room temperature and the reaction mixture is stirred for 20 h.

reactant | 6-fluoro-9-methyl-1-oxo-2-phenyl-2,9-dihydro-1H-pyrido[3,4-b]indole-4-carboxylic acid | 10 mmol, 3.2 g | FC=1C=C2C3=C(N(C2=CC1)C)C(N(C=C3C(=O)O)C3=CC=CC=C3)=O | C19H13FN2O3
reactant | pyrrolidine | 30 zmol, 2.5 ml | N1CCCC1 | C4H9N
solvent | N,N-dimethylformamide | 65 ml | CN(C=O)C | C3H7NO
product | 6-Fluoro-9-methyl-2-phenyl-4-(pyrrolidin-1-ylcarbonyl)-2,9-dihydro-1H-pyrido[3,4-b]indol-1-one | FC=1C=C2C3=C(N(C2=CC1)C)C(N(C=C3C(=O)N3CCCC3)C3=CC=CC=C3)=O | C23H20FN3O2
